US07981903B2
6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (222 mg, 1.07 mmol) was taken in acetonitrile (5 mL), treated with 1-iodo-2-fluoroethane (0.40 g, 2.3 mmol) and potassium carbonate (500 mg, 3.62 mmol, Aldrich). The mixture was heated at 65° C. for 16 h, cooled, and partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated to provide 2-(2-fluoroethyl)-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline which was taken directly to the next step without determination of yield. 1H NMR (400 MHz, CDCl3) δ ppm 2.89-3.04 (m, 6 H), 3.77 (s, 2 H), 3.94 (s, 3 H), 4.62-4.80 (dt, JHF=47.6, J=4.6 Hz, 2 H), 6.82 (s, 1 H), 7.63 (s, 1 H); ESIMS (M+H)+=255.

reactant | 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.07 mmol, 222 mg | COC=1C=C2CCNCC2=CC1[N+](=O)[O-] | C10H12N2O3
reactant | 1-iodo-2-fluoroethane | 2.3 mmol, 0.40 g | ICCF | C2H4FI
reactant | potassium carbonate | 3.62 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(2-fluoroethyl)-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | FCCN1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C12H15FN2O3
